US04595694
Sodium 3-methyl-azulene sulfonate (compound 1)
Acetic anhydride in an amount of 10 ml is added to 1.0 g. of 1-methylazulene under cooling with ice-water, sulfuric acid in an amount of 3.4 g. is added dropwise and the reaction mixture is stirred for 4 hours at 0° C. Then, the reaction mixture is alkalized to pH8-9 by adding 40% of sodium hydroxide solution and the generated solid is collected and dried. The product is recrystalized from 95% ethanol to give 1.1 g. of the objective compound.

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-methylazulene | CC1=CC=C2C=CC=CC=C12 | C11H10
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | Sodium 3-methyl-azulene sulfonate | CC=1C=C(C2=CC=CC=CC12)S(=O)(=O)[O-].[Na+] | InChI=1S/C11H10O3S.Na/c1-8-7-11(15(12,13)14)10-6-4-2-3-5-9(8)10;/h2-7H,1H3,(H,12,13,14);/q;+1/p-1
